US05053533
reacting under Friedel-Crafts conditions 1-chloro-2-methoxy-naphthalene with propionyl chloride in methylene chloride at a temperature of from about 0° C. to ambient temperature in the presence of aluminum chloride to form 1-(5-chloro-6-methoxy-2-naphthyl)-1-propanone,

reactant | 1-chloro-2-methoxy-naphthalene | ClC1=C(C=CC2=CC=CC=C12)OC | C11H9ClO
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(5-chloro-6-methoxy-2-naphthyl)-1-propanone | ClC1=C2C=CC(=CC2=CC=C1OC)C(CC)=O | C14H13ClO2
